US05441961
(8β)-N-(trans-4-aminocyclohexyl)-1-isopropyl -6-methylergoline-8-carboxamide
To a solution of 10.07 g of (8β)-1-isopropyl-6-methylergoline-8-carboxylic acid in 300 ml of dimethylformamide were added 5.5 g of 1,1'-carbonyldiimidazole. After stirring at room temperature for 3 hours, this solution was added to a solution of 36.9 g of trans-1,4-diaminocyclohexane in 600 ml of dimethylformamide; the addition was made dropwise over a period of 3.5 hours. After the addition was complete, the reaction mixture was allowed to stir at room temperature overnight. The solution was poured into 4 liters of ice and the aqueous solution extracted 8 times with 500 ml each of methylene chloride. The combined organic extracts were washed three times with water, one time with a saturated sodium chloride solution, dried over sodium sulfate, and then concentrated in vacuo to provide 12.5 g of title compound as a yellow solid. A portion of this free base material was treated with p-toluenesulfonic acid in ethyl acetate/ethanol to provide the ditosylate salt, m.p. 236°-239° C. NMR, MS.

reactant | (8β)-1-isopropyl-6-methylergoline-8-carboxylic acid | 10.07 g | C(C)(C)N1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)O)C | C19H24N2O2
reactant | 1,1'-carbonyldiimidazole | 5.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trans-1,4-diaminocyclohexane | 36.9 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | (8β)-N-(trans-4-aminocyclohexyl)-1-isopropyl -6-methylergoline-8-carboxamide | 12.5 g | N[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C(C)C)C | C25H36N4O
